US06388104B1
124 g (1 mol) of chloroacetaldehyde dimethyl acetal and 110 g (1 mol) of 3-chloro-1,2-propanediol are heated together with 0.3 g p-TSA and the resultant methanol removed by distillation. Once 32 g of methanol have passed over, the reaction mixture is washed with weakly alkaline water, the organic phase separated and dried over Na2SO4. After fractionation, 160 g (93%) of 2,4-bis(chloromethyl)-1,3-dioxolane are obtained. Bp.: 98° C. (1500 Pa); IR: 1191, 1049, 1007 cm−1 (acetal); MS: m/e=169 (M−1), 140, 123, 121, 105, 93, 77, 75, 63, 57.

reactant | chloroacetaldehyde dimethyl acetal | 1 mol, 124 g | COC(CCl)OC | C4H9ClO2
reactant | 3-chloro-1,2-propanediol | 1 mol, 110 g | ClCC(CO)O | C3H7ClO2
catalyst | p-TSA | 0.3 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 2,4-bis(chloromethyl)-1,3-dioxolane | 160 g, 93% | ClCC1OCC(O1)CCl | C5H8Cl2O2
